US07319102B1
Preparation of [6-Benzenesulfonyl-7-(4-fluorophenyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl]-morpholin-4-yl-amine (35):
6-Benzenesulfonyl-7-(4-fluoro-phenyl)-2-methanesulfonyl-7H-pyrrolo[2,3-d]pyrimidine, 34, (0.04 g, 0.10 mmol) in N-methylpyrrolidinone (3 mL) is added diisopropylethylamine (0.41 mL, 2.36 mmol) and 3-amino-2-methyl-butan-2-ol hydrochloride salt (0.10 g, 0.71 mmol). The mixture is heated to 90° C. for 21 hours. The product is purified by preparative HPLC to afford 50 mg of the desired product as a yellowish solid: 1H NMR (300 MHz, d6-DMSO) δ 8.64 (s, 1H), 7.64-7.47 (m, 1H), 7.42-7.25 (m, 5H), 7.14-7.09 (m, 1H), 6.56 (s, 1H), 5.95 (s, 1H), 4.30 (s, 1H), 3.85 (q, J=7.2 Hz, 2H), 1.04 (s, 9H), 0.93 (t, J=7.2 Hz, 3H); ESI+ MS: m/z (rel intensity) 540.9 (100, M++H).

reactant | 6-Benzenesulfonyl-7-(4-fluoro-phenyl)-2-methanesulfonyl-7H-pyrrolo[2,3-d]pyrimidine | C1(=CC=CC=C1)S(=O)(=O)C1=CC2=C(N=C(N=C2)S(=O)(=O)C)N1C1=CC=C(C=C1)F | C19H14FN3O4S2
reactant | diisopropylethylamine | 2.36 mmol, 0.41 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-amino-2-methyl-butan-2-ol hydrochloride salt | 0.71 mmol, 0.10 g | Cl.NC(C(C)(O)C)C
reactant | N-methylpyrrolidinone | 3 mL | CN1C(CCC1)=O | C5H9NO
product | [6-Benzenesulfonyl-7-(4-fluorophenyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl]-morpholin-4-yl-amine | 50 mg | C1(=CC=CC=C1)S(=O)(=O)C1=CC2=C(N=C(N=C2)NN2CCOCC2)N1C1=CC=C(C=C1)F | C22H20FN5O3S
